US07645753B2
2-Methylsulfanyl-benzooxazole-5-sulfonic acid amide
To a solution of 2-mercapto-benzooxazole-5-sulfonic acid amide (17.0 g, 73.8 mmol, 1.0 equiv) in anhydrous DMF (200 mL) was added anhydrous K2CO3 (51.0 g, 369.1 mmol, 5.0 equiv) and methyl iodide (16.1 mL, 36.7 g, 258.4 mmol, 3.5 equiv). After stirring for 3 h at rt, the K2CO3 was removed by filtration and the reaction mixture concentrated by evaporation under reduced pressure. The residue was washed with ethyl acetate (50 mL) give 17.4 g (97%) of the title compound. 1H NMR (300 MHz, DMSO): δ 2.80 (s, 3H), 7.47 (br s, 2H), 7.83 (s, 2H), 8.07 (s, 1H). 13C NMR (75 MHz, DMSO): δ 4.28, 110.47, 115.71, 122.04, 140.99, 141.37, 152.92, 167.84. MS (ISP): 244.9 [M+H]+.

reactant | 2-mercapto-benzooxazole-5-sulfonic acid amide | 73.8 mmol, 17.0 g, 1.0 equiv | SC=1OC2=C(N1)C=C(C=C2)S(=O)(=O)N | C7H6N2O3S2
reactant | K2CO3 | 369.1 mmol, 51.0 g, 5.0 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 258.4 mmol, 16.1 mL, 36.7 g, 3.5 equiv | CI | CH3I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 2-Methylsulfanyl-benzooxazole-5-sulfonic acid amide | 17.4 g, 97% | CSC=1OC2=C(N1)C=C(C=C2)S(=O)(=O)N | C8H8N2O3S2
